US05990142
24H Ethyl 8-[(E)-2-[4-(4-phenylbutoxy)-2-fluorophenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxylate
Following the process described in example 1 (point A), starting from 3'-[(E)-2-[4-(4-phenylbutoxy)-2-fluorophenyl]ethen-1-yl]-2'-hydroxy-acetophenone and diethyl oxalate, the title compound was prepared (quantitative yield).

reactant | 3'-[(E)-2-[4-(4-phenylbutoxy)-2-fluorophenyl]ethen-1-yl]-2'-hydroxy-acetophenone | C1(=CC=CC=C1)CCCCOC1=CC(=C(C=C1)/C=C/C=1C(=C(C=CC1)C(C)=O)O)F | C26H25FO3
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl 8-[(E)-2-[4-(4-phenylbutoxy)-2-fluorophenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxylate | quantitative yield | C1(=CC=CC=C1)CCCCOC1=CC(=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O)F | C30H27FO5
